US05591862
According to the method described for Reference Example 22, 2-(5-methyl-4-phenyl-2-oxazolylmethoxy)benzaldehyde was allowed to react with trimethyl phosphonoacetate to give methyl 2-(5-methyl-4-phenyl-2-oxazolylmethoxy)cinnamate. Recrystallization from ethyl acetate--chloroform-ether gave colorless prisms, m.p.128°-129° C.

reactant | 2-(5-methyl-4-phenyl-2-oxazolylmethoxy)benzaldehyde | CC1=C(N=C(O1)COC1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C18H15NO3
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl 2-(5-methyl-4-phenyl-2-oxazolylmethoxy)cinnamate | CC1=C(N=C(O1)COC1=C(C=CC(=O)OC)C=CC=C1)C1=CC=CC=C1 | C21H19NO4
